US06825170B2
(2E)-3-(1-methyl-1H-benzimidazol-2-yl)-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 1-methyl-1H-benzimidazole-2-carboxaldehyde for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 187 (M+H)+.

reactant | 1-methyl-1H-benzimidazole-2-carboxaldehyde | CN1C(=NC2=C1C=CC=C2)C=O | C9H8N2O
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-(1-methyl-1H-benzimidazol-2-yl)-2-propenal | CN1C(=NC2=C1C=CC=C2)/C=C/C=O | C11H10N2O
